US07091214B2
8-Bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine (3.0 g, 9.4 mmol) was treated with 4-phenyl butene (4.2 mL, 28.2 mmol) according to the method described in Part B of Example 425. The reaction was heated overnight. Following chromatographic purification (eluting with 95:5 chloroform:methanol), 1.8 g of 1-(2-methylpropyl)-8-(4-phenylbut-1-enyl)-1H-imidazo[4,5-c]quinolin-4-amine were obtained as an off-white solid.

reactant | 8-Bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 9.4 mmol, 3.0 g | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C14H15BrN4
reactant | 4-phenyl butene | 28.2 mmol, 4.2 mL | C1(=CC=CC=C1)CCC=C | C10H12
product | 1-(2-methylpropyl)-8-(4-phenylbut-1-enyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.8 g | CC(CN1C=NC=2C(=NC=3C=CC(=CC3C21)C=CCCC2=CC=CC=C2)N)C | C24H26N4
